US05766610
Preparation of 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylthio)benzaldehyde
60 μl (0.7 mmol) of oxalyl chloride and 5 ml of dichloromethane were introduced into a three-necked flask and under a nitrogen stream. 100 μl (1.4 mmol) of DMSO were added at -60° C. and the mixture was stirred for 10 min and then a solution of 200 mg (0.6 mmol) of 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylthio)benzenemethanol in 5 ml of dichloromethane and 400 μl (3 mmol) of triethylamine was added. The mixture was stirred at room temperature for one hour, the reaction medium poured into water, extracted with dichloromethane, the organic phase decanted off, dried over magnesium sulfate and evaporated.

reactant | oxalyl chloride | 0.7 mmol, 60 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 1.4 mmol, 100 μl | CS(=O)C | C2H6OS
reactant | 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylthio)benzenemethanol | 0.6 mmol, 200 mg | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)SC1=CC=C(C=C1)CO | C22H28OS
reactant | triethylamine | 3 mmol, 400 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylthio)benzaldehyde | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)SC1=CC=C(C=O)C=C1 | C22H26OS
